US09359362B2
(7R)-6-Cyano-7-(4-cyanophenyl)-N,5-dimethyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]-triazolo[1,5-a]pyrimidine-2-sulfonamide
Under an atmosphere of argon, abs. THF (3 ml) was stirred with molecular sieve (4 Å, 30 mg) for 30 min. (7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidine-2-sulfonyl chloride (63%, 50 mg, 62 μmol), methylamine (2 M solution in THF; 94 μl, 0.19 mmol, 3 eq.) and triethylamine (9 μl, 62 μmol, 1 eq.) were added and the mixture was stirred at RT for 12 h. The reaction solution was then concentrated under reduced pressure and the residue was purified by preparative HPLC (Reprosil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (23 mg, 73% of theory).

reactant | (7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidine-2-sulfonyl chloride | 62 μmol, 50 mg | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)S(=O)(=O)Cl)C2=CC(=CC=C2)C(F)(F)F)C | C21H12ClF3N6O2S
reactant | methylamine | 0.19 mmol, 2 M, 94 μl, 3 eq. | CN | CH5N
reactant | triethylamine | 62 μmol, 9 μl, 1 eq. | C(C)N(CC)CC | C6H15N
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | (7R)-6-Cyano-7-(4-cyanophenyl)-N,5-dimethyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]-triazolo[1,5-a]pyrimidine-2-sulfonamide | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)S(=O)(=O)NC)C2=CC(=CC=C2)C(F)(F)F)C | C22H16F3N7O2S
